US04711895
A solution of 1.2 g (4.9 mmoles) of 4-hydroxy-4-(4-phenoxybutyl)-2-cyclopentenone in 10 ml of diisopropylethylamine was cooled to 0° C. in an atmosphere of nitrogen, and 20 ml (10 mmoles) of trimethylsilyl trifluoromethanesulfonate (5 M dichloromethane solution) was added. The mixture was stirred for 20 minutes. After the reaction, water was added, and the mixture was exracted with ether. The extract was washed with water and an aqueous sodium chloride solution, and then dried. The solvent was distilled off under reduced pressure. The residue was chromatographed on a silica gel column (n-hexane:AcOEt=10:1) to give 1.2 g (77%) of 4-(4-phenoxybutyl)-4-trimethylsilyloxy-2-cyclopentenone.

reactant | 4-hydroxy-4-(4-phenoxybutyl)-2-cyclopentenone | 4.9 mmoles, 1.2 g | OC1(C=CC(C1)=O)CCCCOC1=CC=CC=C1 | C15H18O3
reactant | trimethylsilyl trifluoromethanesulfonate | 10 mmoles, 5 M, 20 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | diisopropylethylamine | 10 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(4-phenoxybutyl)-4-trimethylsilyloxy-2-cyclopentenone | 1.2 g, 77% | O(C1=CC=CC=C1)CCCCC1(C=CC(C1)=O)O[Si](C)(C)C | C18H26O3Si
